US04843087
To a mixture of 9.3 g of bis[4-(4,5-dihydro-2-oxazolyl)phenyl]disulfide and 12.1 g of 5-(5-bromopentyl)-3-methylisoxazole in 150 ml of tetrahydrofuran, stirred under nitrogen, was added 90 ml of 33% aqueous sodium hydroxide and 0.23 g of cetyltrimethylammonium bromide. The reaction mixture was heated at reflux for one hour, and then cooled and poured into 1.5 liter of ethyl acetate. The latter solution was washed with water and saturated sodium chloride solution, dried and concentrated in vacuo. The residue was recrystallized from triethylamine to give 6.8 g of 5-{5-[[4-(4,5-dihydro-2-oxazolyl)phenyl]thio]pentyl}-3-methylisoxazole, m.p. 89°-91° C.

reactant | bis[4-(4,5-dihydro-2-oxazolyl)phenyl]disulfide | 9.3 g | O1C(=NCC1)C1=CC=C(C=C1)SSC1=CC=C(C=C1)C=1OCCN1 | C18H16N2O2S2
reactant | 5-(5-bromopentyl)-3-methylisoxazole | 12.1 g | BrCCCCCC1=CC(=NO1)C | C9H14BrNO
reactant | sodium hydroxide | 90 ml | [OH-].[Na+]
reactant | ethyl acetate | 1.5 liter | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | cetyltrimethylammonium bromide | 0.23 g | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
product | 5-{5-[[4-(4,5-dihydro-2-oxazolyl)phenyl]thio]pentyl}-3-methylisoxazole | 6.8 g | O1C(=NCC1)C1=CC=C(C=C1)SCCCCCC1=CC(=NO1)C | C18H22N2O2S
